US06933389B2
Pantoprazole free base (50 grams) was dissolved in a solution of tetrahydrofuran (350 ml) and aqueous sodium hydroxide solution (5.4 grams dissolved in 10 ml of water), and stirred at a temperature of 25-35° C. till the clear solution results. The reaction solution was filtered through hyflow and washed the bed with tetrahydrofuran (2×25 ml). Dichloromethane (400 ml) was added slowly to the filtrate over a period of about 1 hour and stirred for about 5-6 hours to crystallize the solid mass. The separated solid mass was cooled to a temperature of 5-10° C. and further stirred for about 2-3 hours. The solid was filtered, washed with dichloromethane (2×25 ml) and suck dried under vacuum. The wet solid was suspended in dichloromethane (250 ml) and stirred for about 15-30 minutes. Then the solid was filtered and suck dried under vacuum and further dried at a temperature of 40-50° C. to afford crystalline Form-I of Pantoprazole sodium sesquihydrate.

reactant | Pantoprazole | 50 grams | COC=1C=CN=C(C1OC)C[S+](C=2NC=3C=CC(=CC3N2)OC(F)F)[O-] | C16H15F2N3O4S
reactant | sodium hydroxide | 10 ml, 5.4 grams | [OH-].[Na+]
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | Pantoprazole sodium sesquihydrate | COC1=C(C(=NC=C1)CS(=O)C2=NC3=C([N-]2)C=CC(=C3)OC(F)F)OC.COC1=C(C(=NC=C1)CS(=O)C2=NC3=C([N-]2)C=CC(=C3)OC(F)F)OC.O.O.O.[Na+].[Na+] | InChI=1S/2C16H14F2N3O4S.2Na.3H2O/c2*1-23-13-5-6-19-12(14(13)24-2)8-26(22)16-20-10-4-3-9(25-15(17)18)7-11(10)21-16;;;;;/h2*3-7,15H,8H2,1-2H3;;;3*1H2/q2*-1;2*+1;;;
